US06911468B2
(1) 1-Dodecyl-2-(4-methoxyphenyl)-5-methyl-1H-pyrrole
A solution of 1-(4-methoxyphenyl)-1,4-pentanedione (3.00 g, 14.5 mol), dodecylamine (3.24 g, 17.5 mmol) and p-toluenesulfonic acid (150 mg, 0.871 mmol) in toluene (100 ml) was refluxed for 10 hours under heating using Dean-Stark's apparatus. The insoluble matter was filtered out and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) to give the object compound as an oily substance. 4.01 g (yield: 78%)

reactant | 1-(4-methoxyphenyl)-1,4-pentanedione | 14.5 mol, 3.00 g | COC1=CC=C(C=C1)C(CCC(C)=O)=O | C12H14O3
reactant | dodecylamine | 17.5 mmol, 3.24 g | C(CCCCCCCCCCC)N | C12H27N
reactant | p-toluenesulfonic acid | 0.871 mmol, 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Dodecyl-2-(4-methoxyphenyl)-5-methyl-1H-pyrrole | yield: 78% | C(CCCCCCCCCCC)N1C(=CC=C1C)C1=CC=C(C=C1)OC | C24H37NO
